US05008192
60 mg (0.5 mmol) of meta-methylbenzaldehyde were reacted at pH 3.25 with 475 μl of 4.2M aqueous HCN solution and 500 μl of oxynitrilase solution in accordance with Example 14. The reaction was complete after about 45 minutes. The work-up was carried out analogously to Example 1 to give (S)-3-methylmandelonitrile.

reactant | meta-methylbenzaldehyde | 0.5 mmol, 60 mg | CC=1C=C(C=O)C=CC1 | C8H8O
reactant | HCN | 4.2M, 475 μl | C#N | CHN
product | (S)-3-methylmandelonitrile | CC=1C=C([C@@H](C#N)O)C=CC1 | C9H9NO
